US06747025B1
Preparation of 1-Piperidin-1-ylmethyl-3-(1-H-pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one
A solution of Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one (0.60 g, 2.85 mmol), paraformaldehyde (0.13 g, 4.28 mmol) and piperidine (0.24 g, 2.85 mmol) in EtOH (5 mL) was heated to 60-70° C. for 14 h. The reaction mixture was cooled to −20° C. for 1 h and the fine yellow solid present was collected by filtration. The solid collected was dried under vacuum to give the title compound as a yellow solid (0.68 g, 77%).

reactant | Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one | 2.85 mmol, 0.60 g | N1C(=CC=C1)\C=C\1/C(NC2=CC=CC=C12)=O | C13H10N2O
reactant | paraformaldehyde | 4.28 mmol, 0.13 g | C=O | CH2O
reactant | piperidine | 2.85 mmol, 0.24 g | N1CCCCC1 | C5H11N
solvent | EtOH | 5 mL | CCO | C2H6O
product | 1-Piperidin-1-ylmethyl-3-(1-H-pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one | 0.68 g, 77% | N1(CCCCC1)CN1C(C(C2=CC=CC=C12)=CC=1NC=CC1)=O | C19H21N3O
